US07026335B2
Preparation of (4-cyclohexyl-piperidin-4-ylmethyl)-thiazol-2-yl-amine (13):
A ready-to-use solution of trifluoroacetic acid:methylene chloride:water (1:1:0.1, 7 mL) is added to 4-cyclohexyl-4-(thiazol-2-ylaminomethyl)-piperidine-1-carboxylic acid tert-butyl ester, 12, (312 mg, 0.82 mmol), and the reaction mixture is stirred for 0.5–1.0 hour. The mixture is then concentrated under reduced pressure and partitioned between aqueous sodium bicarbonate and ethyl acetate. The organics are separated and the solvent removed under reduced pressure. The crude product is purified by preparative HPLC to afford 220 mg (96% yield) of the desired compound as the trifluoroacetic acid salt.

reactant | trifluoroacetic acid methylene chloride water | 7 mL | FC(C(=O)O)(F)F.C(Cl)Cl.O
reactant | 4-cyclohexyl-4-(thiazol-2-ylaminomethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC=1SC=CN1)C1CCCCC1 | C20H33N3O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (4-cyclohexyl-piperidin-4-ylmethyl)-thiazol-2-yl-amine | 220 mg, 96% yield | C1(CCCCC1)C1(CCNCC1)CNC=1SC=CN1 | C15H25N3S
